US07166598B2
A solution of a mixture of 3-chlorosulfonyl-5-trifluoromethylbenzoic acid (0.5 g) and pyrrolidine (0.72 ml) in dichloromethane (5 ml) was stirred at room temperature overnight. After evaporation to dryness, water (50 ml) was added to the residue and adjusted to pH 1.0 by 1N hydrochloric acid. The resulting precipitates were collected by filtration, and dried under reduced pressure at 45° C. to give 3-(pyrrolidinosulfonyl)-5-(trifluoromethyl)benzoic acid (0.514 g) as a powder.

reactant | 3-chlorosulfonyl-5-trifluoromethylbenzoic acid | 0.5 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4ClF3O4S
reactant | pyrrolidine | 0.72 ml | N1CCCC1 | C4H9N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(pyrrolidinosulfonyl)-5-(trifluoromethyl)benzoic acid | 0.514 g | N1(CCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C12H12F3NO4S
